US06451814B1
4-(4-{2-[(2R)-2-Hydroxy-2-(4-hydroxy-3-methanesulfonylamino-phenyl)-ethylamino]-ethyl}-phenylamino)-piperidine-1-carboxylic Acidoctylamide
4-(4-{2-[(2R)-2-(4-Benzyloxy-3-methanesulfonylamino-phenyl)- 2-hydroxy-ethylamino]-ethyl}-phenylamino)-piperidine-1-carboxylicacid octylamide (0.152 g, 0.219 mmol) was dissolved in ethanol (40 mL) and 10% palladium on carbon (0.05 g) added. The solution was shaken in a Parr apparatus at 50 psi hydrogen atmosphere for 2 hours, filtered through a Celite pad and the solvent removed in vacuo. The residue was purified by flash chromatography on silica gel Merck-60 (eluant: 5:1 chloroform-methanol) to furnish the title compound (0.082 g, 0.136 mmol)

reactant | 4-(4-{2-[(2R)-2-(4-Benzyloxy-3-methanesulfonylamino-phenyl)- 2-hydroxy-ethylamino]-ethyl}-phenylamino)-piperidine-1-carboxylicacid octylamide | 0.219 mmol, 0.152 g | C(CCCCCCC)NC(=O)N1CCC(CC1)NC1=CC=C(C=C1)CCNC[C@H](O)C1=CC(=C(C=C1)OCC1=CC=CC=C1)NS(=O)(=O)C | C38H55N5O5S
reactant | hydrogen | [H][H] | H2
solvent | ethanol | 40 mL | C(C)O | C2H6O
catalyst | palladium on carbon | 0.05 g | [Pd] | Pd
product | 4-(4-{2-[(2R)-2-Hydroxy-2-(4-hydroxy-3-methanesulfonylamino-phenyl)-ethylamino]-ethyl}-phenylamino)-piperidine-1-carboxylic Acidoctylamide | 0.136 mmol, 0.082 g | C(CCCCCCC)NC(=O)N1CCC(CC1)NC1=CC=C(C=C1)CCNC[C@@H](C1=CC(=C(C=C1)O)NS(=O)(=O)C)O | C31H49N5O5S
